US03976824
The procedure described in Reference Example 1 was repeated except that 49.7 g. of acrylamide, 55.8 g. of diethylaminoethyl methacrylate and 31.3 g. of 35 % hydrochloric acid wre employed to give an aqueous solution of acrylamide-diethylaminoethyl methacrylate copolymer having a concentration of 9.9 %, a pH value of 4.6 and a viscosity of 4,500 cP at 25°C.

reactant | acrylamide | C(C=C)(=O)N | C3H5NO
reactant | diethylaminoethyl methacrylate | C(C(=C)C)(=O)OCCN(CC)CC | C10H19NO2
reactant | hydrochloric acid | Cl | ClH
product | acrylamide diethylaminoethyl methacrylate | C(C=C)(=O)N.C(C(=C)C)(=O)OCCN(CC)CC | InChI=1S/C10H19NO2.C3H5NO/c1-5-11(6-2)7-8-13-10(12)9(3)4;1-2-3(4)5/h3,5-8H2,1-2,4H3;2H,1H2,(H2,4,5)
